US08835470B2
2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-Va, 70 mg, 0.162 mmol) was dissolved in DMF (2 mL) prior to the addition of 4-methylmorpholine (0.107 mL, 0.974 mmol), tert-butyl 3-aminopropanoate-HCl (53.1 mg, 0.292 mmol), and HATU (111 mg, 0.292 mmol). This was stirred overnight before EtOAc and brine were added. The organic layer was washed with brine, 1N HCl, and saturated NaHCO3. The organic layer was then dried (MgSO4), filtered, and concentrated to give tert-butyl 3-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoate (85 mg, 0.152 mmol, 94% yield): LCMS=559.3 [M+H]+, which was taken to the next step. This material, tert-butyl 3-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoate (160 mg, 0.286 mmol), was dissolved in CH2Cl2 (1 mL) and TFA (2.0 mL). This was stirred for 1 h and was then concentrated to give single enantiomer 3-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoic acid (147 mg, 0.293 mmol): LCMS=503.0 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.17 (2 H, d, J=8.35 Hz), 7.69 (4 H, d, J=7.91 Hz), 7.52-7.65 (3 H, m), 5.11 (1 H, s), 3.50 (2 H, t, J=6.59 Hz), 2.54 (2 H, t, J=6.81 Hz).

reactant | 2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.162 mmol, 70 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | 4-methylmorpholine | 0.974 mmol, 0.107 mL | CN1CCOCC1 | C5H11NO
reactant | tert-butyl 3-aminopropanoate-HCl | 0.292 mmol, 53.1 mg | Cl.NCCC(=O)OC(C)(C)C
reactant | HATU | 0.292 mmol, 111 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 3-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoate | 0.152 mmol, 85 mg, 94% yield | OC(C(=O)NCCC(=O)OC(C)(C)C)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C27H25F3N4O6
